US08217032B2
1-(2-{4-[2-(2,5-Difluoro-phenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine
Charge a flask with trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-yl-ethoxy)-benzyl]-naphthalen-2-yl ester (1.0 g, 1.91 mmol) and add 20 mL degassed acetonitrile. To this solution add 2,5-difluorophenyl boronic acid (0.6 g, 3.82 mmol), transdichlorobis(triphenylphosphine) palladium II, (270 mg, 0.38 mmol) and cesium fluoride (2.61 g, 17.2 mmol). Sonicate the mixture briefly and heat to 75° C. After 3 hours add an additional small amount of the acid, the catalyst and the cesium fluoride and heat overnight. In the morning filter the mixture and run through and SCX column eluting with 2N ammonia in methanol. Purify further on a silica gel column eluting with a 0-10% methanol/methylene chloride gradient. Concentrate to give 430 mg (46%) of the title compound: 1H-NMR (CDCl3, 300 MHz) δ7.85 (d, J=9.3 Hz, 1H); 7.73 (d, J=8.7 Hz, 1H); 7.33 (d, J=8.4 Hz, 1H); 7.18 (d, J=2.7 Hz, 1H); 7.11-6.89 (m, 4H); 6.86-6.82 (m, 2H); 6.73-6.69 (m, 2H); 4.34-4.19 (d, H); 4.04-3.99 (t, 2H); 3.93 (s, 3H); 2.72 (t, J=6.3 Hz, 2H); 2.47 (t, J=5.1 Hz, 4H); 1.58 (qui, J=5.4 Hz, 4H); 1.46-1.41 (m, 2H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-yl-ethoxy)-benzyl]-naphthalen-2-yl ester | 1.91 mmol, 1.0 g | COC=1C=C2C=CC(=C(C2=CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C26H28F3NO5S
reactant | 2,5-difluorophenyl boronic acid | 3.82 mmol, 0.6 g | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
reactant | cesium fluoride | 17.2 mmol, 2.61 g | [F-].[Cs+]
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.38 mmol, 270 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(2-{4-[2-(2,5-Difluoro-phenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine | 430 mg, 46% | FC1=C(C=C(C=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)CC1=CC=C(OCCN2CCCCC2)C=C1 | C31H31F2NO2
